US07544690B2
A solution of trans-(4-hydroxymethyl-cyclohexylmethyl)-carbamic acid tert-butyl ester (123 g, 505 mmol) in pyridine (1 L) was cooled at 4° C. and a solution of p-toluenesulfonyl chloride (125 g, 657 mmol) in pyridine (200 ml) was added below 10° C. The mixture was stirred at ambient temperature for 15 hr and concentrated. After dissolution with EtOAc and H2O, the organic layer was separated. The aqueous layer was extracted with EtOAc (three times), the combined organic layer was washed with H2O, dried over MgSO4, filtered, and concentrated to give a pale yellow oil. To a solution of the above oil in DMF (1.6 L) was added NaN3 (98.8 g, 1.52 mol). The reaction mixture was stirred at ambient temperature for 14 hr and concentrated. After dissolution with CHCl3 and saturated aqueous NaHCO3, the organic layer was separated. The aqueous layer was extracted with CHCl3 (three times), the combined organic layer was dried over MgSO4, filtered, concentrated, and purified by flash chromatography (silica gel, 17% EtOAc in hexane) to give trans-(4-azidomethyl-cyclohexylmethyl)-carbamic acid tert-butyl ester (124 g, 91%) as a colorless oil.

reactant | trans-(4-hydroxymethyl-cyclohexylmethyl)-carbamic acid tert-butyl ester | 505 mmol, 123 g | C(C)(C)(C)OC(NC[C@@H]1CC[C@H](CC1)CO)=O | C13H25NO3
reactant | p-toluenesulfonyl chloride | 657 mmol, 125 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | NaN3 | 1.52 mol, 98.8 g | [N-]=[N+]=[N-].[Na+]
solvent | pyridine | 1 L | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
solvent | DMF | 1.6 L | CN(C)C=O | C3H7NO
product | trans-(4-azidomethyl-cyclohexylmethyl)-carbamic acid tert-butyl ester | 124 g, 91% | C(C)(C)(C)OC(NC[C@@H]1CC[C@H](CC1)CN=[N+]=[N-])=O | C13H24N4O2
